US05914402
Preparation of 1-(phenyl)-4-oxo-6-methoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline
4-Oxo-6-methoxy-2,3-dihydrofuro[3,2-c]quinoline (217 mg, 1.0 mmol) was dissolved in 7 ml of phenol and aniline (228 μl, 2.5 mmol) was added under nitrogen. The reaction mixture was heated at 190° C. for 15 hours. The reaction mixture was diluted with 20 ml of salt water and the aqueous layer was extracted with methylene chloride (15 ml×3). After washing with water (15 ml×3), the organic layer was dried by anhydrous magnesium surface and filtered, and concentrated under reduced pressure. The residue was purified with ethyl acetate as eluent by silica gel chromatography to obtain 240 mg of desired compound as solid in 83% of yield.

reactant | 4-Oxo-6-methoxy-2,3-dihydrofuro[3,2-c]quinoline | 1.0 mmol, 217 mg | O=C1N=C2C(=CC=CC2=C2C1CCO2)OC | C12H11NO3
reactant | aniline | 2.5 mmol, 228 μl | NC1=CC=CC=C1 | C6H7N
solvent | phenol | 7 ml | C1(=CC=CC=C1)O | C6H6O
solvent | water | O | H2O
product | 1-(phenyl)-4-oxo-6-methoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline | 240 mg | C1(=CC=CC=C1)N1CCC=2C(NC=3C(=CC=CC3C21)OC)=O | C18H16N2O2
